US03952007
5-nitro-1-methyl-2-(2-dimethylaminovinyl)-imidazole
14.1 g. (0.1 mole) of 5-nitro-1,2-dimethylimidazole and 21 g. (0.12 mole) of bis-dimethylamino-tert.-butoxymethane were heated in 90 ml. of dimethylformamide to 130° C. for 15 minutes. After cooling, the red crystals were vacuum-filtered and recrystallized from dimethylformamide.

reactant | 5-nitro-1,2-dimethylimidazole | 0.1 mole | [N+](=O)([O-])C1=CN=C(N1C)C | C5H7N3O2
reactant | bis-dimethylamino-tert.-butoxymethane | 0.12 mole | CN(C)C(OC(C)(C)C)N(C)C | C9H22N2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-nitro-1-methyl-2-(2-dimethylaminovinyl)-imidazole | [N+](=O)([O-])C1=CN=C(N1C)C=CN(C)C | C8H12N4O2
